US04292317
16.2 g of 7-chloro-3-ethoxycarbonyl-6-fluoro-4-hydroxyquinoline, 16.8 g of potassium carbonate and 150 cm3 of DMF were heated for one hour, whilst stirring, in a round-bottomed flask equipped with a reflux condenser. 27.5 cm3 of benzyl chloride were added and the heating and stirring were maintained until the pH of the medium was neutral, which required about 2 hours. The major part of the solvent was removed by distillation in vacuo (15 mm Hg) at 100° C. The residue was taken up in 300 cm3 of water. The mixture was extracted with 3×100 cm3 of chloroform. The combined organic extracts were washed with water, dried (MgSO4) and evaporated to dryness. The residue was recrystallised from methylcellosolve. 17.5 g (81%) of 1-benzyl-7-chloro-3-ethoxycarbonyl-6-fluoroquinoline, m.p. 211°-212° C., were obtained.

reactant | 7-chloro-3-ethoxycarbonyl-6-fluoro-4-hydroxyquinoline | 16.2 g | ClC1=C(C=C2C(=C(C=NC2=C1)C(=O)OCC)O)F | C12H9ClFNO3
reactant | potassium carbonate | 16.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl chloride | 27.5 cm3 | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | DMF | 150 cm3 | CN(C)C=O | C3H7NO
product | 1-benzyl-7-chloro-3-ethoxycarbonyl-6-fluoroquinoline | 17.5 g, 81% | C(C1=CC=CC=C1)N1CC(=CC2=CC(=C(C=C12)Cl)F)C(=O)OCC | C19H17ClFNO2
